US07662832B2
7-(3,4-dihydro-1H-isoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-carbaldehyde
Diisobutyl aluminum hydride (1.0M in toluene solution; 1.98 ml, 1.98 mmol) was added at −78° C. to a solution of 7-(3,4-dihydro-1H-isoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-carbonitrile (300 mg, 099 mmol) prepared in Example 682 in anhydrous tetrahydrofuran (2 ml). The reaction mixture was stirred for 5 hours and then diluted with diethyl ether. Water (2 ml) and 15% sodium hydroxide solution (2 ml) were added to the reaction mixture, which was then stirred for 30 minutes. The organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/n-hexane=1/3, v/v) to give 50.6 mg of the titled compound as a white solid. (Yield: 16%).

reactant | Diisobutyl aluminum hydride | 1.98 mmol, 1.0M, 1.98 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 7-(3,4-dihydro-1H-isoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-carbonitrile | 300 mg | C1N(CCC2=CC=CC=C12)C=1N=C(C=C2C1NC(=C2C)C)C#N | C19H18N4
reactant | Water | 2 ml | O | H2O
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-(3,4-dihydro-1H-isoquinolin-2-yl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridin-5-carbaldehyde | 50.6 mg, Yield: 16% | C1N(CCC2=CC=CC=C12)C=1N=C(C=C2C1NC(=C2C)C)C=O | C19H19N3O
